Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Shortness of breath.
 
Major Surgical or Invasive Procedure:
Cardiac cath on ___ with DES to circumflex artery.

 
History of Present Illness:
___ M with a history of PVD, AAA repair, s/p CEA, HTN who was 
seen by his outpatient Cardiologist 5 days ago. Per report, he 
had a stress echo (official results not available). Patient was 
set up for outpatient cath next week, but in the interim was 
admitted to ___ with pulmonary edema. He had acute shortness of 
breath on night of ___ and called EMS.  
.  
Presented to OSH complaining of shortness of breath x 5 days, 
that has been getting progressively worse. One day prior to 
admission to OSH he was short of breath climbing the stairs in 
his house. That evening, while watching TV he had sudden onset 
SOB. No CP, no palpitations. No nausea or vomiting. Patient did 
become diaphoretic.  
.  
EMS noted BP 225/94, HR 130s, tachypneic. He was started on 
CPAP, nebs, nitro gtt, lasix. Patient was admitted to the CCU at 
OSH. Required 5L O2 nasal cannula.  
Troponins of 0.112 --> 0.224 --> 0.305. CK 67-->48. CKMB 2.0--> 
2.6. Cardiac index 3.0 --> 5.4. Of note, patient has not been 
taking his home medications (including monopril, librium, and 
simvastatin) per MD from the ___. ___ reason for this is unclear. 
The patient is being transferred to ___ for catheterization.  
.  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He endoreses exertional buttock and calf pain. All of the other 
review of systems were negative.  
.  
Cardiac review of systems is notable for current absence of 
chest pain, paroxysmal nocturnal dyspnea, orthopnea, ankle 
edema, palpitations, syncope or presyncope.
 
Past Medical History:
___ M with a history of PVD, AAA repair, s/p CEA, HTN who was 
seen by his outpatient Cardiologist 5 days ago. Per report, he 
had a stress echo (official results not available). Patient was 
set up for outpatient cath next week, but in the interim was 
admitted to ___ with pulmonary edema. He had acute shortness of 
breath on night of ___ and called EMS.  
.  
Presented to OSH complaining of shortness of breath x 5 days, 
that has been getting progressively worse. One day prior to 
admission to OSH he was short of breath climbing the stairs in 
his house. That evening, while watching TV he had sudden onset 
SOB. No CP, no palpitations. No nausea or vomiting. Patient did 
become diaphoretic.  
.  
EMS noted BP 225/94, HR 130s, tachypneic. He was started on 
CPAP, nebs, nitro gtt, lasix. Patient was admitted to the CCU at 
OSH. Required 5L O2 nasal cannula.  
Troponins of 0.112 --> 0.224 --> 0.305. CK 67-->48. CKMB 2.0--> 
2.6. Cardiac index 3.0 --> 5.4. Of note, patient has not been 
taking his home medications (including monopril, librium, and 
simvastatin) per MD from the ___. ___ reason for this is unclear. 
The patient is being transferred to ___ for catheterization.  
.  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He endoreses exertional buttock and calf pain. All of the other 
review of systems were negative.  
.  
Cardiac review of systems is notable for current absence of 
chest pain, paroxysmal nocturnal dyspnea, orthopnea, ankle 
edema, palpitations, syncope or presyncope.
 
Social History:
___
Family History:
Nonecontributory.
 
Pertinent Results:
On Admission:
___ 09:05PM   WBC-7.9 RBC-3.98* HGB-12.6* HCT-38.3* MCV-96 
MCH-31.7 MCHC-32.9 RDW-16.1*
___ 09:05PM   PLT COUNT-176
___ 09:05PM   GLUCOSE-117* UREA N-27* CREAT-1.0 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-24 ANION GAP-16
___ 09:05PM   MAGNESIUM-2.2
___ 09:05PM   CK-MB-NotDone cTropnT-0.01
___ 09:05PM   CK(CPK)-49
.
Cardiac cath:
1. Selective coronary angiography of this left dominant system 
revealed 
three vessel coronary artery disease. The LMCA was calcified 
with 
minimal disease.  The LAD had moderate disease, an ostial 90% 
stenosis 
at the diagonal artery near the ostium.  The LCX had an 80% 
stenosis at 
the mid segment.  The RCA was non dominant with diffuse high 
grade 
disease. 
2. Resting hemodynamics demonstrated elevated LV filling 
pressures, 
moderate pulmonary artery hypertension, and a low cardiac index 
(1.9). 
3. Stenting of mid LCX with Xience 3x8 
  
FINAL DIAGNOSIS:     
1. Two vessel coronary artery disease. 
2. Diastolic dysfunction. 
3. Moderate pulmonary hypertension. 
4. Stenting of LCX with drug eluting stent. 
 
Brief Hospital Course:
___ M with a history of PVD, AAA repair, s/p CEA, HTN who 
presented with acute SOB, likely flash pulmonary edema, but ? of 
NSTEMI with elevated trops at ___.  
.  
# CORONARIES: Patient recently admitted to ___ for shortness of 
breath and was found to have pulmonary edema with borderline 
Troponing I. He denied any chest pain, diaphoresis, leg 
swelling. He was discharged with cardiology follow up and now is 
admitted for further work up and cath. He was chest pain free 
overnight and in the cardiac cath was found to have ostial 90% 
stenosis at the diagonal artery near the ostium.  The LCX had an 
80% stenosis at the mid segment. Since he has RCA atrophied with 
a dominant LCV it was stented with a 3x5 Cypher stent. Since the 
ostial lession was very small Dr. ___ not to stent it. 
He was re-started on lisinopril, metoprolol and his statin, 
aspirin and plavix were continued.
.  
# PUMP: Patient had ECHO in ___ with normal cardiac function 
and per report had another at ___. He was euvolemic throughout 
the admission.   
.  
# RHYTHM: NSR throughout admission.  
.  
# Hypertension. Patient had hypertensive emergency with flash 
pulm edema on presentation to ___. He was weaned quickly off 
BIPAP and nitro gtt and has been stable for > 24 hrs. He 
diuresed well and on admission was euvolemic. Per his report his 
PCP at the ___ stopped his antihypertensive, fosinopril ___ 
months ago. He is currently normotensive and was transfered on 
captopril. We started metoprolol due to CAD and re-started 
low-dose lisinopril instead of captopril.
.  
# Hyperlipidemia: recently stopped lipitor for ? myalgias. 
Patient was discharged on pravastatin, since he rememebered 
similar problems with simavastain.
.  
FEN: Cardiac diet.
.
ACCESS: PIV's.
.
PROPHYLAXIS:  
-DVT ppx with heparin SQ  
-Pain management with tylenol.
.
CODE: Full code.
.
DISPO: Home.
 
Medications on Admission:
ALENDRONATE - 70 mg po q ___  
CHLORDIAZEPOXIDE HCL - 25 mg po daily PRN anxiety  
FOSINOPRIL - 10 mg po qhs (STOPPED 2 Months prior)  
SIMVASTATIN - 40 mg po qhs (STOPPED 2 Months prior)  
MULTIVITAMIN po qd  
 
Discharge Medications:
1. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. Pravastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
3. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
4. Aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
5. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QMON (every 
___.  
7. Atenolol 25 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
8. Vitamin D 2,000 unit Capsule Sig: One (1) Capsule PO once a 
day.
Disp:*30 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Coronary Artery Disease s/p cardiac cath with DES to circumflex 
artery.

 
Discharge Condition:
Stable, 

 
Discharge Instructions:
You were electively admitted at the ___ for cardiac cath after 
your abnormal stress test. You had multiple-vessel disease and 
had a drug diluting (Xience) stent placed to one of your heart 
arteries (circumflex artery). You will need to be in aspirin and 
plavix for a year and have close cardiology follow up (See 
appointments below).
.
If you have chest pain, palpitations, shortness of breath, groin 
pain, bleeding or anything else that cocerns you, please come to 
our ER.
.
Your medications were left unchanged, but:
* You were started on lisinopril (5 mg Daily) to protect your 
heart and blood pressure control. If the ___ can provide you with 
a similar ACE inhibitor would be ok to switch, but talk to your 
PCP or Dr. ___ there first.
* You were started on pravastatin, that is similar to Lipitor or 
Crestor, but cause muscle pain less often. We will need to try 
several medications to see which one you are able to tolerate, 
but your cholesterol must be tightly controlled.
* You were started on low-dose beta-blocker to protect your 
heart. You are being discharge in low-dose atenolol.
* You are being put on maintainance dose of Vitamin D to 
decrease further your cardiovascular read.
* You were started on Aspirin and Plavix. YOU MUST NOT STOP them 
for any reason, unless specifically ordered by a physician. You 
cannot run out of this medicaion. Feel free to call Dr. ___ 
you have any problems filling it!
 
Followup Instructions:
___